US05324711
Preparation of methyl 6-(benzyloxy)-α-methyl-1H-benzotriazole-1-acetate
A mixture of 6-(benzyloxy)-α-methyl-1H-benzotriazole-1-acetic acid (36.6 g, 0.123 mole) and concentrated sulfuric acid (2.7 ml) in methanol is stirred at reflux temperature for 6 hours, cooled in an ice bath and treated with K2CO3 (25 g). The resulting mixture is stirred vigorously until a thick slurry results, diluted with methylene chloride and filtered. The filtrate is concentrated in vacuo to give a solid residue. Recrystallization of the residue from methanol affords the title product as a white solid, 27 g, mp 88°-91.5° C., identified by NMR and elemental analyses. Another 4.2 g (81.7% total yield) of the title product is obtained form the mother liquor.

reactant | 6-(benzyloxy)-α-methyl-1H-benzotriazole-1-acetic acid | 0.123 mole, 36.6 g | C(C1=CC=CC=C1)OC=1C=CC2=C(N(N=N2)C(C(=O)O)C)C1 | C16H15N3O3
reactant | sulfuric acid | 2.7 ml | S(O)(O)(=O)=O | H2O4S
reactant | K2CO3 | 25 g | C(=O)([O-])[O-].[K+].[K+]
solvent | methanol | CO | CH4O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | methyl 6-(benzyloxy)-α-methyl-1H-benzotriazole-1-acetate | C(C1=CC=CC=C1)OC=1C=CC2=C(N(N=N2)C(C(=O)OC)C)C1 | C17H17N3O3
